US08470816B2
To a solution of sodium hydride (60% in oil, 6.56 g) in m-xylene (100 mL) was slowly added ethanol (15.7 mL) at 0° C. and then diethyl oxalate (32.0 g) was added. Furthermore, a solution of ethyl 3,4-dichlorophenylacetate (51.0 g) in m-xylene (30 mL) was added at 0° C., and the mixture was stirred at room temperature for 14 hr. To the reaction mixture was added 37% aqueous formalin solution (140 mL) at room temperature, and the mixture was stirred at room temperature for 1 hr. Furthermore, potassium carbonate (115 g) was added at room temperature, and the mixture was stirred at room temperature for 1 hr. The insoluble material was filtered off, and the filtrate was partitioned between ethyl acetate (500 mL) and water (500 mL). The organic layer was separated, washed with brine and dried, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (solvent; 5% ethyl acetate/hexane) to give crude ethyl 2-(3,4-dichlorophenyl)acrylate (38.1 g, 44%) as a colorless oil.

reactant | sodium hydride | 6.56 g | [H-].[Na+]
reactant | diethyl oxalate | 32.0 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | ethyl 3,4-dichlorophenylacetate | 51.0 g | ClC=1C=C(C=CC1Cl)CC(=O)OCC | C10H10Cl2O2
reactant | formalin | 140 mL | C=O | CH2O
reactant | potassium carbonate | 115 g | C([O-])([O-])=O.[K+].[K+]
solvent | m-xylene | 100 mL | C1(=CC(=CC=C1)C)C | C8H10
solvent | m-xylene | 30 mL | C1(=CC(=CC=C1)C)C | C8H10
solvent | ethanol | 15.7 mL | C(C)O | C2H6O
product | ethyl 2-(3,4-dichlorophenyl)acrylate | 38.1 g, 44% | ClC=1C=C(C=CC1Cl)C(C(=O)OCC)=C | C11H10Cl2O2
